US08895571B2
Step B: 2-[(2S)-2-(6-chloro-3-oxo-1,3-dihydro-2H-pyrrolo[3,4-c]pyridin-2-yl)-3-(3,5-difluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione
To a solution of 6-chloro-2-[(1S)-1-(3,5-difluorobenzyl)-2-hydroxyethyl]-1,2-dihydro-3H-pyrrolo[3,4-c]pyridin-3-one (0.340 g, 1.00 mmol), triphenylphosphine (0.263 g, 1.00 mmol) and phthalimide (0.148 g, 1.00 mmol) in tetrahydrofuran (10 mL) at 25° C. was added diethyl azodicarboxylate (0.514 mL, 1.30 mmol). The reaction was stirred at room temperature overnight. After concentration, the residue was purified by combi-flash chromatography eluting with EtOAc/hexane (10-60%). The purification gave 0.360 g (76.7% yield) of the desired product as light green solid. LC/MS found: 468.0 (M+1)+.

reactant | 6-chloro-2-[(1S)-1-(3,5-difluorobenzyl)-2-hydroxyethyl]-1,2-dihydro-3H-pyrrolo[3,4-c]pyridin-3-one | 1.00 mmol, 0.340 g | ClC1=CC2=C(C=N1)C(N(C2)[C@H](CO)CC2=CC(=CC(=C2)F)F)=O | C16H13ClF2N2O2
reactant | triphenylphosphine | 1.00 mmol, 0.263 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 1.00 mmol, 0.148 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 1.30 mmol, 0.514 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[(2S)-2-(6-chloro-3-oxo-1,3-dihydro-2H-pyrrolo[3,4-c]pyridin-2-yl)-3-(3,5-difluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione | 0.360 g, 76.7% yield | ClC1=CC2=C(C=N1)C(N(C2)[C@H](CN2C(C1=CC=CC=C1C2=O)=O)CC2=CC(=CC(=C2)F)F)=O | C24H16ClF2N3O3
